US06087186
C. Preparation of Gly-L-Phe-L-Leu ELAMS™
Boc-Gly-L-Phe-L-Leu-OH (44 mg, 0.1 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexaflurophsophate (14 mg, 0.104 mmol) are dissolved in dry DMF (1 mL). DIEA (20 μL, 0.115 mmol) is added and about 0.5-1.0 mL of this solution is transferred to a test tube containing amino derivatized ELAMS™. The tube is sealed, vortexed for about 3.5-4 hours and the ELAMS™ pelleted and washed with DMF (3×) and methylene chloride (2×). The ELAMS™ are then deprotected with a solution of 50% trifluoroacetic acid (TFA) in methylene chloride for 30 min., washed with methylene chloride (2×), ethanol (2×) and methylene chloride (2×), and dried at 55° C. for about 1 hour. The identifier tag from each ELAMS™ is detected and recorded.

reactant | Boc-Gly-L-Phe-L-Leu-OH | 0.1 mmol, 44 mg | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C22H33N3O6
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium | N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 0.115 mmol, 20 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Gly-L-Phe-L-Leu | NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C17H25N3O4
